US04165365
To a solution of 0.5 g (2.9 mmole) of 2,2-dimethyl-1,3-dioxolane-4-carboxylic acid in 2 ml of methylene chloride, at 0° C., was added a solution of 0.216 g of 3,5-diaminonitrobenzene (1.3 mmole) in 2 ml of methylene chloride and 1 ml of pyridine, followed by 0.61 g (3.0 mmole) of dicyclohexylcarbodiimide. The mixture was stirred 72 hours, diluted with ethyl acetate, filtered and the filtrate evaporated to dryness in high vacuum. The residue was chromatographed over silica gel; elution with 9:1 chloroform-ethyl acetate gave two fractions. The first fraction, 170 mg was the bis-acylated material. The second fraction was evaporated to dryness to give 250 mg of N-(3-amino-5-nitrophenyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamide.

reactant | 2,2-dimethyl-1,3-dioxolane-4-carboxylic acid | 2.9 mmole, 0.5 g | CC1(OCC(O1)C(=O)O)C | C6H10O4
reactant | 3,5-diaminonitrobenzene | 1.3 mmole, 0.216 g | NC=1C=C(C=C(C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | dicyclohexylcarbodiimide | 3.0 mmole, 0.61 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-amino-5-nitrophenyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamide | 250 mg | NC=1C=C(C=C(C1)[N+](=O)[O-])NC(=O)C1OC(OC1)(C)C | C12H15N3O5
